US08937092B2
Trifluoroacetic acid (6 mL) was added to a solution of ethyl 2-(4-((tert-butoxycarbonylamino)methyl)phenyl)propanoate (6.0 g, 19.54 mmol) in dichloromethane (30 mL) at 0° C. and stirred for 4 h at room temperature. The volatiles were evaporated under reduced pressure, basified with saturated NaHCO3 and extracted with ethyl acetate (3×50 mL). Combined organic layers washed with water (100 mL), brine solution (50 mL), dried over sodium sulfate and concentrated to give ethyl 2-(4-(aminomethyl)phenyl)propanoate (3.5 g, 86%) as colorless liquid.

reactant | Trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 2-(4-((tert-butoxycarbonylamino)methyl)phenyl)propanoate | 19.54 mmol, 6.0 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(C(=O)OCC)C | C17H25NO4
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | ethyl 2-(4-(aminomethyl)phenyl)propanoate | 3.5 g, 86% | NCC1=CC=C(C=C1)C(C(=O)OCC)C | C12H17NO2
